US05688808
1,2,3,4-Tetrahydro-3-methylquinoline (51 mg, 0.35 mmol) was dissolved in sulfuric acid (0.5 mL) and the temperature lowered to 0° C. To this solution 90% fuming nitric acid (15 mL, 0.35 mmol) was added slowly and the mixture stirred at 0° C. for 1 h, then warmed to rt. The reaction mixture was then poured onto 1 g of ice and extracted with dichloromethane (2×5 mL). The organic phase was washed with saturated aqueous NaHCO3 (3 mL) and concentrated in vacuo to a reddish residue that was subjected to chromatography (silica gel, hexanes/ethyl acetate, 85:15) which afforded 8.2 mg (12%) of 7-nitro-1,2,3,4-tetrahydro-3-methylquinoline. Data for 7-nitro-1,2,3,4-tetrahydro-3-methylquinoline: 1H NMR (400 MHz, CDCl3) 7.39 (dd, J=8.25, 2.2, 1H), 7.27 (d, J=2.3, 1H), 7.01 (d, J=8.3, 1H), 4.19 (s, 1H), 3.33 (m, 1H), 2.94 (dd, J=10.1, 10.1, 1H), 2.86 (ddd, J=13.8, 4.7, 1.7, 1H), 2.46 (dd, J=16.6, 10.0, 1H), 2.05 (m, 1H), 1.06 (d, J=6.7, 3H).

reactant | 1,2,3,4-Tetrahydro-3-methylquinoline | 0.35 mmol, 51 mg | CC1CNC2=CC=CC=C2C1 | C10H13N
reactant | nitric acid | 0.35 mmol, 15 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
product | 7-nitro-1,2,3,4-tetrahydro-3-methylquinoline | 8.2 mg, 12% | [N+](=O)([O-])C1=CC=C2CC(CNC2=C1)C | C10H12N2O2
